US06576644B2
4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-3-(hydroxymethyl)-6-quinolinecarbonitrile
To 530 mg (1.0 mmol) of 4-[[(3-chloro-4-methoxyphenyl)methyl]amino]-6-cyano-3-quinolinecarboxylic acid pentafluorophenyl ester was added 15 mL of anhydrous DMF, and the resulting mixture was cooled to 0° C. A solution of 75 mg of NaBH4 in 5 mL of was added to the reaction mixture, resulting in a clear red solution with gas evolution. After stirring for 1 hour at 0° C., the reaction was quenched with 2% TFA/MeOH, and the solvent was removed under reduced pressure. The oily residue was purified by flash chromatography (silica gel, 3-5% MeOH/CH2Cl2) to afford 87 mg (25% yield) of the title compound. LC: 2.60′; MH+: 354.

reactant | 4-[[(3-chloro-4-methoxyphenyl)methyl]amino]-6-cyano-3-quinolinecarboxylic acid pentafluorophenyl ester | 1.0 mmol, 530 mg | FC1=C(C(=C(C(=C1OC(=O)C=1C=NC2=CC=C(C=C2C1NCC1=CC(=C(C=C1)OC)Cl)C#N)F)F)F)F | C25H13ClF5N3O3
reactant | NaBH4 | 75 mg | [BH4-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-3-(hydroxymethyl)-6-quinolinecarbonitrile | 87 mg, 25% yield | ClC=1C=C(C=CC1OC)CNC1=C(C=NC2=CC=C(C=C12)C#N)CO | C19H16ClN3O2
